US04835175
A solution of 4.6 g of 3-(N-benzyl-N-cyanomethylamino)butyric acid in 100 ml of n-butanol is combined with 0.5 ml of concentrated sulfuric acid and the mixture is heated for 4 hours on a water trap under reflux. The reaction mixture is allowed to cool, concentrated to dryness, and the residue dissolved in diethyl ether. The ether solution is washed with 10% sodium bicarbonate solution and saturated sodium chloride solution, dried, and evaporated to dryness. The oily residue is distilled in a bulb tube at 85°-105° C. and 0.01 torr, thus obtaining 1.17 g of 3-(N-benzyl-N-cyanomethylamino)butyric acid n-butyl ester as an oil.

reactant | 3-(N-benzyl-N-cyanomethylamino)butyric acid | 4.6 g | C(C1=CC=CC=C1)N(CC#N)C(CC(=O)O)C | C13H16N2O2
reactant | sulfuric acid | 0.5 ml | S(O)(O)(=O)=O | H2O4S
solvent | n-butanol | 100 ml | C(CCC)O | C4H10O
product | 3-(N-benzyl-N-cyanomethylamino)butyric acid n-butyl ester | 1.17 g | C(CCC)OC(CC(C)N(CC#N)CC1=CC=CC=C1)=O | C17H24N2O2
